US07888352B2
To a mixture of 1-methanesulfonyl-3,5-dimethylpiperazine and 6-bromomethyl-2-chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine in acetonitrile was added potassium carbonate and the mixture refluxed overnight. After cooling to room temperature, the acetonitrile was removed under reduced pressure. DCM/sat. aq. NaHCO3 extraction and purification on silica gave 2-chloro-6-((2S,6R)-4-methanesulfonyl-2,6-dimethyl-piperazin-1-ylmethyl)-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine.

reactant | 1-methanesulfonyl-3,5-dimethylpiperazine | CS(=O)(=O)N1CC(NC(C1)C)C | C7H16N2O2S
reactant | 6-bromomethyl-2-chloro-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | BrCC1=C(C=2N=C(N=C(C2S1)N1CCOCC1)Cl)C | C12H13BrClN3OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-chloro-6-((2S,6R)-4-methanesulfonyl-2,6-dimethyl-piperazin-1-ylmethyl)-7-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=C(S2)CN2[C@H](CN(C[C@H]2C)S(=O)(=O)C)C)C)N2CCOCC2 | C19H28ClN5O3S2
